US04129737
As described in Example VI, a mixture of 5.6 g. of 2-chloro-5-oxo-6-carbethoxy-8-ethyl-5,8-dihydropyrido(2,3-d)pyrimidine, 7.04 g. of N-benzylpiperazine and 80 cm3 of toluene is heated under reflux for 2 hours. After cooling, the mass is diluted with 100 cm3 of chloroform and is taken up in 200 cm3 of water. After washing the organic phase with water, the reaction product is isolated as described in the Example mentioned. It is recrystallised from isopropanol. 7.6 g. (90%) of 2-(4'-benzyl-piperazino)-5-oxo-6-carbethoxy-8-ethyl-5,8-dihydro-pyrido(2,3-d)pyrimidine are obtained; melting point 152° C.

reactant | 2-chloro-5-oxo-6-carbethoxy-8-ethyl-5,8-dihydropyrido(2,3-d)pyrimidine | ClC=1N=CC2=C(N1)N(C=C(C2=O)C(=O)OCC)CC | C12H12ClN3O3
reactant | N-benzylpiperazine | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | toluene | 80 cm3 | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | 100 cm3 | C(Cl)(Cl)Cl | CHCl3
solvent | water | 200 cm3 | O | H2O
product | 2-(4'-benzyl-piperazino)-5-oxo-6-carbethoxy-8-ethyl-5,8-dihydro-pyrido(2,3-d)pyrimidine | 90% | C(C1=CC=CC=C1)N1CCN(CC1)C=1N=CC2=C(N1)N(C=C(C2=O)C(=O)OCC)CC | C23H27N5O3
